US06235730B1
Using acetanilide (9.16 g) and 2-chloro-6-methylpyridine (17.3 g), a reaction was made in the same manner as in 1) of Production Example 14. The subsequent purification by silica gel chromatography (developing solvent, ethyl acetate:hexane=1:1, ethyl acetate) produced N-(6-methyl-2-pyridyl)acetanilide (1.07 g; yield, 7%) as a pale brown oil.

reactant | acetanilide | 9.16 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | 2-chloro-6-methylpyridine | 17.3 g | ClC1=NC(=CC=C1)C | C6H6ClN
product | N-(6-methyl-2-pyridyl)acetanilide | 1.07 g, 7% | CC1=CC=CC(=N1)N(C1=CC=CC=C1)C(C)=O | C14H14N2O
